US05958942
iii) Synthesis of 4,5-dihydro-4-(3-trifluoromethanesulfonamidopropan-1-yl)-3H-1,4,8b-triazaacenaphthylene
To a solution of 233 mg (0.50 mmol) of 3-hydroxymethyl-5-[N-tert-butoxycarbonyl-N-(3-trifluoromethanesulfonamidopropan-1-yl)aminomethyl]imidazo[1,2-a]pyridine in 5.0 ml of chloroform was added 0.36 ml (2.50 mmol) of trimethylsilyl iodide. The mixture was stirred for 18 hours at room temperature. The reaction mixture was poured into ice-water, which was neutralized with a saturated aqueous solution of sodium hydrogencarbonate, and extracted of the desired compound with 50 ml of chloroform. The organic layer was washed with 50 ml of a saturated aqueous saline solution and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent; chloroform:methanol=20:1) to afford 109 mg of the desired compound (62.8%, a pale yellow liquid).

reactant | 3-hydroxymethyl-5-[N-tert-butoxycarbonyl-N-(3-trifluoromethanesulfonamidopropan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 0.50 mmol, 233 mg | OCC1=CN=C2N1C(=CC=C2)CN(CCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C18H25F3N4O5S
reactant | trimethylsilyl iodide | 2.50 mmol, 0.36 ml | C[Si](C)(C)I | C3H9ISi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 5.0 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,5-dihydro-4-(3-trifluoromethanesulfonamidopropan-1-yl)-3H-1,4,8b-triazaacenaphthylene | 109 mg | FC(S(=O)(=O)NCCCN1CC2=CN=C3C=CC=C(C1)N32)(F)F | C13H15F3N4O2S
